US08258134B2
A solution of 3-cyclopentyl-2-(4-hydroxy-6-oxo-6H-pyridazin-1-yl)-propionic acid methyl ester (3.0 g, 11.3 mmol) in N,N-dimethylformamide was treated with potassium carbonate (2.33 g, 16.9 mmol) and 2-chloro-4-trifluoromethyl-pyrimidine (3.1 g, 16.9 mmol). The reaction mixture was stirred at 110° C. for 1 h. At this time, the reaction was cooled to 25° C. and concentrated in vacuo. The residue was partitioned between water and ethyl acetate. The combined organics were washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered, and concentrated in vacuo. Chromatography afforded 3-cyclopentyl-2-[6-oxo-4-(4-trifluoromethyl-pyrimidin-2-yloxy)-6H-pyridazin-1-yl]-propionic acid methyl ester as a light oil (4.0 g, 86%).

reactant | 3-cyclopentyl-2-(4-hydroxy-6-oxo-6H-pyridazin-1-yl)-propionic acid methyl ester | 11.3 mmol, 3.0 g | COC(C(CC1CCCC1)N1N=CC(=CC1=O)O)=O | C13H18N2O4
reactant | potassium carbonate | 16.9 mmol, 2.33 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-4-trifluoromethyl-pyrimidine | 16.9 mmol, 3.1 g | ClC1=NC=CC(=N1)C(F)(F)F | C5H2ClF3N2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-cyclopentyl-2-[6-oxo-4-(4-trifluoromethyl-pyrimidin-2-yloxy)-6H-pyridazin-1-yl]-propionic acid methyl ester | COC(C(CC1CCCC1)N1N=CC(=CC1=O)OC1=NC=CC(=N1)C(F)(F)F)=O | C18H19F3N4O4
